US04284634
A mixture of 2-benzyloxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate (2.44 g), hydroxylamine hydrochloride (377 mg) and sodium acetate (526 mg) in acetic acid (15 ml) was stirred at room temperature for an hour to form 2-benzyloxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-hydroxyiminomethyl-1,4-dihydropyridine-3-carboxylate. To the reaction mixture was added acetic anhydride (1.66 g) and the mixture was stirred at room temperature for an hour and then heated at 100° C. for 3 hours with stirring. After removal of the acetic acid, the residue was adjusted to pH 7.5 with aqueous sodium bicarbonate solution and extracted twice with ethyl acetate. The extracts were washed twice with water, and saturated aqueous sodium chloride solution, dried over magnesium sulfate and evaporated to dryness in vacuo. The residual brown oil (2.6 g) was chromatographed on a column of silica-gel (78 g) and eluted with a mixture of benzene and ethyl acetate (12:1, v/v) to give an oil (1.45 g). The oil was crystallized by triturating with a small amount of mixture of diisopropyl ehter and diethyl ether, and recrystallized from a mixture of diisopropyl ether (9 ml) and ethanol (1 ml) to give pure crystals of 2-benzyloxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-cyano-1,4-dihydropyridine-3-carboxylate (840 mg), mp 114° to 115° C. An additional crop (560 mg) was recovered from the filtrate by concentrating the filtrate and allowing to stand the residue in a refrigerator.

reactant | 2-benzyloxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 2.44 g | CC=1NC(=C(C(C1C(=O)OCCOCC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C26H26N2O8
reactant | hydroxylamine hydrochloride | 377 mg | Cl.NO
reactant | sodium acetate | 526 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-benzyloxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-hydroxyiminomethyl-1,4-dihydropyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OCCOCC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C=NO | C26H27N3O8
